US05808062
4-Hydroxy-3-[(2-methylphenyl)thio]-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (1.95 g, 10.14 mmol) and diethyl ester of [(2-methylphenyl)thio]propanedioic acid (1.43 g, 5.07 mmol). m.p. 210°-211° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.47 (s, 3H), 6.82 (s, 1H), 6.86 (d, 1H), 7.04 (m, 2H), 7.17 (d, 1H), 7.56 (m, 3H), 7.86 (m, 2H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 10.14 mmol, 1.95 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(2-methylphenyl)thio]propanedioic acid | 5.07 mmol, 1.43 g | CC1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C10H10O4S
product | 4-Hydroxy-3-[(2-methylphenyl)thio]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SC1=C(C=CC=C1)C | C18H14O3S
